US06743564B2
At 20 to 30° C., 11.4 g of methyl acrylate was added to 10.0 g of 2-methoxyethylamine, which was allowed to stand for 2 hours. Then 7.92 g of bromoacetonitrile was added to the reaction solution, which was heated at 70° C. for 20 hours. The reaction solution was diluted with ethyl acetate and the resulting solids were filtered off. Vacuum concentration yielded methyl N-cyanomethyl-N-(2-methoxy-ethyl)-3-aminopropionate.

reactant | methyl acrylate | 11.4 g | C(C=C)(=O)OC | C4H6O2
reactant | 2-methoxyethylamine | 10.0 g | COCCN | C3H9NO
reactant | bromoacetonitrile | 7.92 g | BrCC#N | C2H2BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-cyanomethyl-N-(2-methoxy-ethyl)-3-aminopropionate | C(#N)CN(CCC(=O)OC)CCOC | C9H16N2O3
